US05955636
An autoclave having an internal volume of 3 liters was charged with 630 g of the 3,7,11-trimethyl-6-dodecen -1-yn-3-ol thus obtained, 270 g of hexane and 0.22 g of a Lindlar catalyst (supported on calcium carbonate) to carry out the hydrogenation for 4 hours under hydrogen pressure of 5 to 8 kg/cm2 (gauge pressure) at a temperature of 25 to 43° C. Thereafter, the catalyst was filtered off, and the resultant filtrate was concentrated with a rotary evaporator to give 630 g of crude 3,7,11-trimethyl-1,6-dodecadien-3-ol. Analysis by gas chromatography (column: DC-550, available from Gasukuro Kogyo Inc.; column length: 3 m; column temperature: 160° C.; and column: PEG-20M, available from Gasukuro Kogyo Inc.; column length: 3 m; column temperature: 190° C.) revealed that the conversion of 3,7,11-trimethyl-6-dodecen-1-yn-3-ol was 95.5%, and the selectivity to 3,7,11-trimethyl -1,6-dodecadien-3-ol was 94.6%.

reactant | 3,7,11-trimethyl-6-dodecen -1-yn-3-ol | 630 g | CC(C#C)(CCC=C(CCCC(C)C)C)O | C15H26O
catalyst | Lindlar catalyst | 0.22 g | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | hexane | 270 g | CCCCCC | C6H14
product | 3,7,11-trimethyl-1,6-dodecadien-3-ol | 630 g | CC(C=C)(CCC=C(CCCC(C)C)C)O | C15H28O
